US04178289
In yet another aspect, the invention relates to the process of preparing 6-chloro-α-methylcarbazole-2-acetic acid by a process which comprises the steps of (a) treating 6-chloro-α-hydroxy-α-methylcarbazole-2-acetic acid with a dehydrating agent to yield 6-chloro-α-methylene-2-carbazole acetic acid; (b) hydrogenating the reaction product of step (a) to obtain the desired 6-chloro-α-methylcarbazole-2-acetic acid. Alternatively, the 6-chloro-α-hydroxy-α-methylcarbazole-2-acetic acid can be treated with stannous chloride in the presence of an alkanoic and mineral acid to yield the desired 6-chloro-α-methylcarbazole-2-acetic acid.

reactant | 6-chloro-α-methylcarbazole-2-acetic acid | ClC=1C=C2C=3C=CC(=CC3NC2=CC1)C(C(=O)O)C | C15H12ClNO2
reactant | 6-chloro-α-hydroxy-α-methylcarbazole-2-acetic acid | ClC=1C=C2C=3C=CC(=CC3NC2=CC1)C(C(=O)O)(C)O | C15H12ClNO3
product | 6-chloro-α-methylene-2-carbazole acetic acid | ClC=1C=C2C=3C=CC(=CC3NC2=CC1)C(C(=O)O)=C | C15H10ClNO2
